US06583179B2
D. Preparation of 2-Bromophenylsulfonamide Resin
The resin-bound secondary amine resin (from C) was swelled in DCM (200 mL). To the suspension was added pyridine (3.19 g) followed by 2-bromophenylsulfonyl chloride (5.1 g, 20.0 millimole) and shaken overnight. The resin was filtered and washed with 3 portions of DCM, 3 portions of methanol, 3 portions of DCM, and 3 portions of methanol. The resin was dried in vacuo overnight.

reactant | pyridine | 3.19 g | N1=CC=CC=C1 | C5H5N
reactant | 2-bromophenylsulfonyl chloride | 20.0 millimole, 5.1 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromophenylsulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
